US06921763B2
A mixture of N2-(4-bromophenyl)-5-ethyl-1,3-benzoxazol-2-amine (0.86 g, 0.0027 mol), diboron pinacol ester (0.84 g, 0.0033 mol), [1.1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.22 g, 0.00027 mol) and potassium acetate (0.8 g, 0.0081 mol) in N,N-dimethylformamide (30 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. The residue was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (3×50 mL), and the organic layer was washed with brine. The solvent was removed under reduced pressure, and the crude material was purified by flash column chromatography on silica using 0%-25% ethyl acetate/n-heptane as a mobile phase to give N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-ethyl-1,3-benzoxazol-2-amine (0.82 g, 0.002 mol).

reactant | N2-(4-bromophenyl)-5-ethyl-1,3-benzoxazol-2-amine | 0.0027 mol, 0.86 g | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)CC | C15H13BrN2O
reactant | diboron pinacol ester | 0.0033 mol, 0.84 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.00027 mol, 0.22 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.0081 mol, 0.8 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-ethyl-1,3-benzoxazol-2-amine | 0.002 mol, 0.82 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)CC)C | C21H25BN2O3
